US06005118
1-Cyclohexyl-3-ethyl-6-fluoro-1H-indazole (2.00 g, 8.12 mmol) was dissolved in toluene (20 mL) and to the solution was added hydrobromic acid (1.62 mL of a 30% solution in acetic acid). The solution was stirred at room temperature 30 minutes and concentrated to low volume. Ethyl acetate (10 mL) was added, the solids were filtered and washed with additional ethyl acetate (10 mL) to provide 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole hydrobromide (1.46 g, 55% yield) as an orange solid. 1H NMR (400 MHz, DMSO-d6) δ 1.22 (t, 3, J=7.7), 1.38-1.45 (m, 2), 1.60-1.83 (m, 8), 2.83 (q, 2, J=7.7), 4.36-4.43 (m, 1), 6.85-6.90 (m, 1), 7.47 (dd, 1, J=10.3, 1.7), 7.68 (dd, 1, J=8.8, 5.3). 13C NMR (100 MHz, DMSO-d6) δ 13.98, 20.26, 25.44, 25.49, 32.52, 56.80, 95.64 (d, J=27.5), 109.32 (d, J=26.0), 119.23, 122.38 (d, J=11.5), 140.02 (d, J=13.0), 146.11, 161.795 (d, J=241).

reactant | 1-Cyclohexyl-3-ethyl-6-fluoro-1H-indazole | 8.12 mmol, 2.00 g | C1(CCCCC1)N1N=C(C2=CC=C(C=C12)F)CC | C15H19FN2
reactant | hydrobromic acid | Br | BrH
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-cyclohexyl-3-ethyl-6-fluoro-1H-indazole hydrobromide | 1.46 g, 55% yield | Br.C1(CCCCC1)N1N=C(C2=CC=C(C=C12)F)CC | InChI=1S/C15H19FN2.BrH/c1-2-14-13-9-8-11(16)10-15(13)18(17-14)12-6-4-3-5-7-12;/h8-10,12H,2-7H2,1H3;1H
